US05238938
0.70 Milliliters of ethyl chlorocarbonate was added, at -15° C., to a solution of 730 mg of 3-isobutyl-5-methoxy-1,2-dihydropyrazin-2-one-6-carboxylic acid 4-oxide and 1.0 ml of triethylamine dissolved in 20 ml of tetrahydrofuran, and the mixture was stirred for 2 hours at the same temperature. Thereto was added 330 mg of lithium borohydride, and the mixture was stirred for 18 hours at room temperature. To the reaction mixture was added 5 ml of 10% hydrochloric acid, and the mixture was diluted with ethyl acetate with stirring, and the resulting mixture was dried over magnesium sulfate, then the solvent was removed by evaporation. The residue was purified by a silica gel column chromatography (eluting solvent: 10% by volume of methanol-chloroform) to obtain 467 mg of 6-hydroxymethyl-3-isobutyl-5-methoxy-1,2-dihydropyrazin-2-one 4-oxide (Compound B-35) as a pale yellow oily substance.

reactant | ethyl chlorocarbonate | C(OCC)(=O)Cl | C3H5ClO2
reactant | 3-isobutyl-5-methoxy-1,2-dihydropyrazin-2-one-6-carboxylic acid 4-oxide | 730 mg | C(C(C)C)C=1C(NC(=C([N+]1[O-])OC)C(=O)O)=O | C10H14N2O5
reactant | lithium borohydride | 330 mg | [BH4-].[Li+]
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
product | 6-hydroxymethyl-3-isobutyl-5-methoxy-1,2-dihydropyrazin-2-one 4-oxide | 467 mg | OCC1=C([N+](=C(C(N1)=O)CC(C)C)[O-])OC | C10H16N2O4
